US07807709B2
b. 4-Methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid
A mixture of 4-methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid ethyl ester (0.93 g, 3.04 mmol) in THF (3 mL) and 2N NaOH (2.28 mL, 4.55 mmol) is heated with stirring at 60° C. overnight. After cooling, ice water is added and the pH is adjusted to 1 by addition of HCl 37% to form a white precipitate which is filtered off. The title compound is obtained after drying as white solid. TLC, Rf (hexane/AcOEt 1:1)=0.17. MS: 277.0 [M−H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.90 min. 1H-NMR (CDCl3): δ 1.98 (m, 2H), 2.45 (m, 2H), 3.85 (s, 3H), 4.08 (m, 2H), 7.08 (dd, 1H), 7.46 (d, 1H), 7.60 (dd, 1H), 12.7 (s, br, 1H) ppm.

reactant | 4-methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid ethyl ester | 3.04 mmol, 0.93 g | C(C)OC(C1=CC(=C(C=C1)OC)OCCCC(F)(F)F)=O | C14H17F3O4
reactant | NaOH | 4.55 mmol, 2N, 2.28 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(4,4,4-trifluoro-butoxy)-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)OCCCC(F)(F)F | C12H13F3O4
